US06291423B1
2-Iodo-N,N-dioleylacetamide
A solution of 2-bromo-N,N-dioleylacetamide (0.81 g; 1.27 mmol) and sodium iodide (0.76 g; 5.08 mmol) in acetone is refluxed overnight. Hexane (10 ml) is added and the precipitate is filtered off to give, after evaporating the filtrate under reduced pressure, 2-iodo-N,N-dioleylacetamide (0.87 g; 100%) in the form of a yellowish liquid.

reactant | 2-bromo-N,N-dioleylacetamide | 1.27 mmol, 0.81 g | BrCC(=O)N(CCCCCCCC\C=C/CCCCCCCC)CCCCCCCC\C=C/CCCCCCCC | C38H72BrNO
reactant | sodium iodide | 5.08 mmol, 0.76 g | [I-].[Na+]
reactant | Hexane | 10 ml | CCCCCC | C6H14
solvent | acetone | CC(=O)C | C3H6O
product | 2-Iodo-N,N-dioleylacetamide | ICC(=O)N(CCCCCCCC\C=C/CCCCCCCC)CCCCCCCC\C=C/CCCCCCCC | C38H72INO
